US08492582B2
A 37% formaldehyde aqueous solution (6.3 μL), acetic acid (0.022 mL), and sodium triacetoxyborohydride (0.10 g) were sequentially added to a tetrahydrofuran (3.0 mL) solution of methyl 2-(2-(benzyloxy)-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate (0.10 g), followed by stirring at room temperature for 3 hours and 30 minutes. The solvent was evaporated under reduced pressure, and a saturated aqueous solution of sodium bicarbonate and chloroform were added to the residue. The organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 98-90% chloroform/methanol] to obtain 0.086 g of methyl 2-(2-(benzyloxy)-5-(1-methylpiperidin-4-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | formaldehyde | 6.3 μL | C=O | CH2O
reactant | acetic acid | 0.022 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.10 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl 2-(2-(benzyloxy)-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate | 0.10 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCNCC1 | C33H32N2O4
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | methyl 2-(2-(benzyloxy)-5-(1-methylpiperidin-4-yl)benzamido)-4-phenylbenzoate | 0.086 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCN(CC1)C | C34H34N2O4
